US05175291
1-Propyl-3-benzyl-8-(1,4-benzodioxan-6-yl)xanthine
2.9 g (0.01 mol) of 1-benzyl-3-propyl-5-nitroso-6-aminouracil are added to 60 ml of dimethylformamide together with 2.3 g (0.014 mol) of 1,4-benzodioxan-6-aldehyde, then 0.5 g (0.014 mol) of 1,1-dimethylhydrazine are added and the mixture is refluxed for 8 hours. After working up in the usual way, the crystalline residue is triturated with ethanol and filtered under suction. 1.0 g of the title compound is obtained in the form of yellow crystals, m.p. 290° C.

reactant | 1-benzyl-3-propyl-5-nitroso-6-aminouracil | 0.01 mol, 2.9 g | C(C1=CC=CC=C1)N1C(=O)N(C(=O)C(=C1N)N=O)CCC | C14H16N4O3
reactant | 1,4-benzodioxan-6-aldehyde | 0.014 mol, 2.3 g | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | 1,1-dimethylhydrazine | 0.014 mol, 0.5 g | CN(N)C | C2H8N2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-Propyl-3-benzyl-8-(1,4-benzodioxan-6-yl)xanthine | 1.0 g | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1=CC2=C(OCCO2)C=C1)CC1=CC=CC=C1 | C23H22N4O4
